US05990346
To methyl (11R,12S,13E,15S,17R)-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate (37.2 mg, 0.093 mmol) in acetone (1 mL) was added pH 8 phosphate buffer (10 mL). To this was further added esterase containing solution (derived from pig's liver, made by Sigma Co., 100 μl). This was agitated at room temperature for 15 hours. Dilute hydrochloric acid was added to the reaction solution to make the solution pH 4. Further, The solution was made saturated by ammonium sulfate, then the target produce was extracted with ethyl acetate. The extract was washed with brine, then was dried over anhydrous sodium sulfate. The solution was concentrated under reduced pressure, then subjected to thin layer chromatography for separation (development solution: ethyl acetate) to obtain (11R,12S,13E,15S,17R)-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoic acid (4.6 mg, 12%).

reactant | methyl (11R,12S,13E,15S,17R)-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 0.093 mmol, 37.2 mg | O[C@@H]1CC=C(SCCCCCC(=O)OC)[C@H]1\C=C\[C@H](C[C@@H](CCCC)C)O | C22H38O4S
reactant | phosphate | 10 mL, pH 8 | P(=O)([O-])([O-])[O-]
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | (11R,12S,13E,15S,17R)-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoic acid | 4.6 mg, 12% | O[C@@H]1CC=C(SCCCCCC(=O)O)[C@H]1\C=C\[C@H](C[C@@H](CCCC)C)O | C21H36O4S
